US04540583
Preparation of 1,4-bis(2-diethylaminoethylamino)anthraquinone
A mixture of 42 ml. of N,N,N',N'-tetramethylenediamine, 17.43 g. of N,N-diethylethylenediamine and 12.01 g. of quinizarin is stirred and heated under reflux for 15 hours. The resulting solution is evaporated to dryness and a chloroform solution of the residue is filtered through 300 g. of alumina. The blue filtrate is chromatographed on silica gel in a Nylon® film column, developing with a chloroform:methanol (6:1) mixture. The major blue band is cut out and then eluted with a chloroform:methanol:triethylamine (6:2:1) mixture. The eluate is evaporated. The residue is crystallized from hexane and washed with petroleum ether, giving 1.43 g. of the desired product as blue-black plates, mp. 109° C.

reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
reactant | quinizarin | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
product | 1,4-bis(2-diethylaminoethylamino)anthraquinone | C(C)N(CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN(CC)CC)CC | C26H36N4O2
